US06348474B1
1-(2,4-Dichlorobenzyl)-6-(ethoxycarbonyl)benzotriazole
Ethyl 4-amino-3-(2,4-dichlorobenzylamino)benzoate (0.89 g), concentrated sulfuric acid (1.0 g) were stirred in a mixed solvent of acetic acid (20 ml), water (10 ml) and tetrahydrofuran (20 ml). Sodium nitrite (3.0 g) was added thereto, and the mixture was stirred at room temperature for 30 min. The solvent was distilled away, and water was added to separate the toluene layer. The mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate. The toluene layer was concentrated to give the objective compound (0.64 g) as a crude product.

reactant | Ethyl 4-amino-3-(2,4-dichlorobenzylamino)benzoate | 0.89 g | NC1=C(C=C(C(=O)OCC)C=C1)NCC1=C(C=C(C=C1)Cl)Cl | C16H16Cl2N2O2
reactant | sulfuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | Sodium nitrite | 3.0 g | N(=O)[O-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 1-(2,4-Dichlorobenzyl)-6-(ethoxycarbonyl)benzotriazole | 0.64 g | ClC1=C(CN2N=NC3=C2C=C(C=C3)C(=O)OCC)C=CC(=C1)Cl | C16H13Cl2N3O2
